US08357703B2
6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N-(2-hydroxy-2-methyl-propyl)-nicotinamide
As described for example 9, 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (150 mg, 0.49 mmol) was converted, using 1-amino-2-methyl-propan-2-ol instead of rac-2-amino-1-propanol, to the title compound (10 mg, 6%) which was obtained as a colourless oil after purification by chromatography (silica, 0 to 5% methanol in dichloromethane). MS: m/e=362.3 [M+H]+.

reactant | 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.49 mmol, 150 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)CCCC)=O | C16H20N2O4
reactant | 1-amino-2-methyl-propan-2-ol | NCC(C)(O)C | C4H11NO
product | 6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N-(2-hydroxy-2-methyl-propyl)-nicotinamide | 10 mg, 6% | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)NCC(C)(C)O)C=C1)C | C19H27N3O4
